US04075199
Preparation of 2,5-Dimethyl-2,5-di[1-(t-butylazo)cyclohexylperoxy]hexane
To a cooled slurry of 2.47 grams (.0586 moles) of 57% sodium hydride in 80 ml. of dioxane in a 250 ml. 4 neck round bottom flask equipped with a magnetic stirrer, thermometer, addition fummel and gas outlet, was slowly added 3.88 grams (0.0196 moles) of 90% 2,5-dimethyl-2,5-dihydroperoxy-hexane containing 8% water. After the addition was complete the reaction was stirred for 4 hours at 30° C, cooled to 15° C in a cold water bath and 7.96 grams (.0392 moles) of 1-t-butylazo-1-chlorocyclohexane was added dropwise holding the temperature at 15° to 20° C. After the addition was complete the reaction was stirred for 30 minutes at 15° to 20° C and poured into 200 ml. of ice cold water. The product was extracted with 50 ml. of cold pentane, the pentane solution washed with ice cold water, saturated NaHCO3 solution, dried over anhydrous sodium sulfate, filtered and the pentane evaporated under reduced pressure while holding the temperature of the solution below 10° C. The product was a light yellow liquid weighing 8.0 grams (80% yield). The infrared spectrum of the crude azo-peroxide was in agreement with the stucture of the desired product.

reactant | sodium hydride | .0586 moles, 2.47 grams | [H-].[Na+]
reactant | 2,5-dimethyl-2,5-dihydroperoxy-hexane | 0.0196 moles, 3.88 grams | CC(C)(CCC(C)(OO)C)OO | C8H18O4
reactant | 1-t-butylazo-1-chlorocyclohexane | .0392 moles, 7.96 grams | C(C)(C)(C)N=NC1(CCCCC1)Cl | C10H19ClN2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2,5-Dimethyl-2,5-di[1-(t-butylazo)cyclohexylperoxy]hexane | 80% yield | CC(C)(CCC(C)(OOC1(CCCCC1)N=NC(C)(C)C)C)OOC1(CCCCC1)N=NC(C)(C)C | C28H54N4O4
